US05258388
Methyl Hydrogen Phenylmalonate
A mixture of phenylmalonic acid (3.6 g, 0.02 mol), boron trifluoride etherate (2.4 mL, 0.02 mol) and 0.8 mL of anhydrous methanol (0.02 mol) was refluxed and stirred for 24 hours. After cooling to room temperature, the reaction mixture was filtered and 20 mL of water was added.

reactant | phenylmalonic acid | 0.02 mol, 3.6 g | C1(=CC=CC=C1)C(C(=O)O)C(=O)O | C9H8O4
reactant | boron trifluoride etherate | 0.02 mol, 2.4 mL | B(F)(F)F.CCOCC
reactant | methanol | 0.02 mol, 0.8 mL | CO | CH4O
product | Methyl Hydrogen Phenylmalonate | C1(=CC=CC=C1)C(C(=O)OC)C(=O)O | C10H10O4
